US09403801B2
Step 5) 3-(9-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a solution of 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (100 mg, 0.28 mmol), 2-cyanoacetic acid (43.3 mg, 0.51 mmol) in a mixture of DCM and DMF (20 mL/5 mL) were added HATU (241.9 mg, 0.64 mmol) and Et3N (85.8 mg, 0.85 mmol). After addition, the reaction mixture was stirred at rt overnight, then quenched with H2O (30 mL) and extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the title compound as a beige solid (66.8 mg, 56%).

reactant | 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.28 mmol, 100 mg | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNCC2)CC1 | C19H29N7
reactant | 2-cyanoacetic acid | 0.51 mmol, 43.3 mg | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 0.64 mmol, 241.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.85 mmol, 85.8 mg | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(9-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 66.8 mg, 56% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(CC2)C(CC#N)=O)CC1 | C22H30N8O
